US04178379
2,4,6,7-Tetrahydro-3-(4-methoxyphenyl)-7-[(4-methoxyphenyl)-methylene]-1-propylthiopyrano[4,3-c]pyrazole
A mixture of tetrahydro-3,5-bis-(4-methoxyphenyl-methylene)-4H-thiopyran-4-one (6 g, 17 mmole) and propylhydrazine (1.4 g, 19 mmole) in methanol (250 ml) is heated at reflux temperature for 4.5 hours. After the reaction mixture is left at room temperature overnight, yellow solids precipitate out and are collectd by filtration. The crude product is applied to a Al2O3 column (Activity I, neutral). The major product is eluted with 10-20% ethyl acetate/acetic acid. Continued elution with 10-60% CHCl3 /hexane yields the title compound. Recrystallization from acetone/hexane gives 0.65 g of final product in crystalline form (99% pure), m.p. 131.5°-133.5°.

reactant | tetrahydro-3,5-bis-(4-methoxyphenyl-methylene)-4H-thiopyran-4-one | 17 mmole, 6 g | COC1=CC=C(C=C1)C=C1CSCC(C1=O)=CC1=CC=C(C=C1)OC | C21H20O3S
reactant | propylhydrazine | 19 mmole, 1.4 g | C(CC)NN | C3H10N2
solvent | methanol | 250 ml | CO | CH4O
product | 2,4,6,7-Tetrahydro-3-(4-methoxyphenyl)-7-[(4-methoxyphenyl)-methylene]-1-propylthiopyrano[4,3-c]pyrazole | COC1=CC=C(C=C1)C1C2=C(N(N1)CCC)C(CSC2)=CC2=CC=C(C=C2)OC | C24H28N2O2S
